US09127044B2
8-Amino-3,6-dioxaoctanoic acid tert-butylester
100 mg (0.226 mmol) of 8-(9-Fluorenylmethoxycarbonylamino)-3,6-dioxaoctanoic acid tert-butylester in 1 mL of dry DMF were treated with piperidine (89.5 μL; 0.862 mmol) at r.t. for 3 hours. The solvent was evaporated and the residue purified by chromatography on silica gel with a gradient cHex→EtOAc→EtOAc/MeOH (1:1)+3%. MeOH. Yield: 12 mg (24%) of the title compound. ESI MS: 220.08 [M+H]+.

reactant | 8-(9-Fluorenylmethoxycarbonylamino)-3,6-dioxaoctanoic acid tert-butylester | 0.226 mmol, 100 mg | C(C)(C)(C)OC(COCCOCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C25H31NO6
reactant | piperidine | 0.862 mmol, 89.5 μL | N1CCCCC1 | C5H11N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 8-Amino-3,6-dioxaoctanoic acid tert-butylester | C(C)(C)(C)OC(COCCOCCN)=O | C10H21NO4
